* Behavioral idea opamps for ngspice (educational)
* Shared by netlists via:  .include ../models/opamp.lib
*
* Subcircuits:
*   opamp_se    diff-in → single-ended out   pins: inp inm out vdd vss
*   opamp_diff  diff-in → differential out   pins: inp inm outp outm vdd vss
*
* Defaults = recommended **non-ideal** set for ~1.8 V CMOS / IoT VREF.
* Override per instance, e.g.:
*   X1 inp inm out vdd 0 opamp_se av0=1e6 vos=0 rout=1m
*
* Ideal quick set:
*   av0=1e6 gbw=100meg rin=1T rout=1m vos=0 acm=0 swing=10

* =====================================================================
* SE: soft-rail tanh + dominant pole (fp = gbw/av0), Rout series.
* Midrail tracks (vdd+vss)/2. CMRR ≈ av0/acm (default ~60 dB).
* =====================================================================
.subckt opamp_se inp inm out vdd vss params: av0=10k gbw=1meg rin=100meg rout=10k vos=1m acm=10 swing=0.9
.param pi=3.141592653589793
.param fp={gbw/av0}
.param rpole=1k
.param cpole={1/(2*pi*fp*rpole)}
*
Rin inp inm {rin}
*
Bclip outi 0 V={ 0.5*(v(vdd)+v(vss)) + swing*tanh( av0*( (v(inp)-v(inm)-vos) + (acm/av0)*(0.5*(v(inp)+v(inm))-0.5*(v(vdd)+v(vss))) ) /(swing+1p) ) }
*
Rpole outi pole {rpole}
Cpole pole 0 {cpole}
Rout pole out {rout}
.ends opamp_se

* =====================================================================
* DIFF: Vod soft-limited about vocm; Acm*Vic shifts both outs (output CM).
* Differential CMRR is high; set acm to model output-CM CM sensitivity.
* =====================================================================
.subckt opamp_diff inp inm outp outm vdd vss params: av0=10k gbw=1meg rin=100meg rout=10k vos=1m acm=10 vocm=0.9 swing=0.9
.param pi=3.141592653589793
.param fp={gbw/av0}
.param rpole=1k
.param cpole={1/(2*pi*fp*rpole)}
*
Rin inp inm {rin}
*
Bclip vod_raw 0 V={ (2*swing)*tanh( av0*(v(inp)-v(inm)-vos)/(2*swing+1p) ) }
Rpole vod_raw vod_f {rpole}
Cpole vod_f 0 {cpole}
*
Bcm cm 0 V={acm * ( 0.5*(v(inp)+v(inm)) - vocm )}
*
Bop outpi 0 V={vocm + 0.5*v(vod_f) + v(cm)}
Bom outmi 0 V={vocm - 0.5*v(vod_f) + v(cm)}
Routp outpi outp {rout}
Routm outmi outm {rout}
.ends opamp_diff
